US06100272
2'-Methoxycarbonyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylic acid
A stirred solution of methyl 2-bromo-5-(2-oxopyrrolidin-1-yl)benzoate (D52, 1.7 g; 5.73 mmol) in DMF (13 ml) was treated with 4-boronobenzoic acid (0.95 g,5.73 mmol) under argon, followed by tetrakis(triphenylphosphine)palladium (O) (104 mg) and triethylamine (2.34 ml, 0.02 mol). After heating for 18 h at 100° C., the reaction mixture was concentrated under reduced pressure and the residue partitioned between 10% aqueous Na2CO3 solution and ethyl acetate. The basic aqueous layer was acidified with 5M HCl acid, precipitating the crude product as a white solid, which was recrystallised from ethanol (137 mg, 7%).

reactant | methyl 2-bromo-5-(2-oxopyrrolidin-1-yl)benzoate | 5.73 mmol, 1.7 g | BrC1=C(C(=O)OC)C=C(C=C1)N1C(CCC1)=O | C12H12BrNO3
reactant | 4-boronobenzoic acid | 5.73 mmol, 0.95 g | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | triethylamine | 0.02 mol, 2.34 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis (triphenylphosphine) palladium | 104 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2'-Methoxycarbonyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylic acid | COC(=O)C1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)O | C19H17NO5
